US07482462B2
5.19 g of 4-[(benzhydryl-sulfamoyl)-methyl]-4-hydroxy-piperidine-1-carboxylic acid tert.-butyl ester in 150 ml of MeOH are treated with 100 μl of triethylamine and the mixture obtained is hydrogenated overnight at RT with 10% Pd/C as a catalyst. From the mixture obtained the catalyst is filtrated off, solvent is evaporated and the evaporation residue is subjected to chromatography on silica gel. 4-Hydroxy-4-sulfamoylmethyl-piperidine-1-carboxylic acid tert.-butyl ester are obtained. m.p. 176-180°.

reactant | 4-[(benzhydryl-sulfamoyl)-methyl]-4-hydroxy-piperidine-1-carboxylic acid tert.-butyl ester | 5.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CS(NC(C1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C24H32N2O5S
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-Hydroxy-4-sulfamoylmethyl-piperidine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CS(N)(=O)=O)O | C11H22N2O5S
